US07947851B2
Step a) Formation of methyl 2-fluoro-5-formylbenzoate
To a solution of 3-bromo-4-fluoro benzaldehyde (Aldrich, 10 g, 0.049 mol) in dry DMF (25 mL) was added dry methanol (40 mL) followed by TEA (9.9 g, 0.0988 mol), dppf (Aldrich, 1.36 g, 0.00246 mol) and palladium acetate (Aldrich, 0.31 g, 0.00138 mol). The reaction mixture was heated to 60° C. under carbon monoxide atmosphere for 20 h. The reaction mixture was cooled and purged with nitrogen to remove dissolved carbon monoxide if any. The solvent was removed under vacuum and the residue was purified by flash chromatography using silicagel (petrol ether/ ethyl acetate, 9:1) to afford 2 g (23%) of the title compound as a solid along with 6 g of unreacted starting material. TLC: Petrol ether/EtOAc (7:3); Rf=0.7; HPLC: purity >98%. 1H NMR (DMSO) δ: 10.04 (s, 1H), 8.45 (m, 1H), 8.20 (m, 1H), 7.59 (m, 1H), 3.90 (s, 3H).

reactant | 3-bromo-4-fluoro benzaldehyde | 0.049 mol, 10 g | BrC=1C=C(C=O)C=CC1F | C7H4BrFO
reactant | methanol | 40 mL | CO | CH4O
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | dppf | 0.00246 mol, 1.36 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium acetate | 0.00138 mol, 0.31 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 2-fluoro-5-formylbenzoate | 2 g, 23% | FC1=C(C(=O)OC)C=C(C=C1)C=O | C9H7FO3
